* SPICE INPUT		Tue Jun  2 14:07:42 2026	inv
* EV_NETLIST Version AMD.64 Release B-2008.09.SP5.26005 2012/07/14
*
*The following line needed for Star-CR:
*CRU_OPT (KEEP_ELEMENTS "^[CR]D")
*
*The following line needed for CDL:
*.BIPOLAR

* Top of hierarchy  cell=inv
.subckt inv vdd! out gnd! in
M_MM3 gnd! in out gnd! N  l=0.140u w=0.200u
M_MM2 vdd! in out vdd! P  l=0.140u w=0.450u
.ends inv
